US07622583B2
A solution of N-[5-Chloro-2-(3-methyl-2-oxo-2,3-dihydro-1H-benzoimidazole-4-carbonyl)-pyridin-3-yl]-N-methoxymethyl-4-methyl-3-trifluoromethyl-benzenesulfonamide in 4 M HCl in dioxane (2 mL) and water (1 mL) was heated at 95° C. for 7 h, then MeOH (1 mL) and water (2 mL) was added and heating was continued overnight. The resulting mixture was purified by HPLC to provide N-[5-chloro-2-(3-methyl-2-oxo-2,3-dihydro-1H-benzoimidazole-4-carbonyl)-pyridin-3-yl]-4-methyl-3-trifluoromethyl-benzenesulfonamide. 1H NMR (400 MHz, CDCl3) δ 10.94 (s, 1 H), 8.28 (d, J=2.0 Hz, 1 H), 8.21 (d, J=1.6 Hz, 1H), 8.08 (s, 1 H), 7.95 (d, J=7.6 Hz, 1 H), 7.42 (d, J=8.0 Hz, 1 H), 7.19-7.17 (m, 1 H), 7.01 (t, J=7.6 Hz, 1 H), 6.82 (d, J=7.6 Hz, 1 H), 3.10 (s, 3 H), 2.53 (s, 3H); MS m/z 524.9 (M+H)+.

reactant | N-[5-Chloro-2-(3-methyl-2-oxo-2,3-dihydro-1H-benzoimidazole-4-carbonyl)-pyridin-3-yl]-N-methoxymethyl-4-methyl-3-trifluoromethyl-benzenesulfonamide | ClC=1C=C(C(=NC1)C(=O)C1=CC=CC=2NC(N(C21)C)=O)N(S(=O)(=O)C2=CC(=C(C=C2)C)C(F)(F)F)COC | C24H20ClF3N4O5S
reactant | water | 1 mL | O | H2O
reactant | MeOH | 1 mL | CO | CH4O
reactant | water | 2 mL | O | H2O
solvent | HCl | 4 M | Cl | ClH
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | N-[5-chloro-2-(3-methyl-2-oxo-2,3-dihydro-1H-benzoimidazole-4-carbonyl)-pyridin-3-yl]-4-methyl-3-trifluoromethyl-benzenesulfonamide | ClC=1C=C(C(=NC1)C(=O)C1=CC=CC=2NC(N(C21)C)=O)NS(=O)(=O)C2=CC(=C(C=C2)C)C(F)(F)F | C22H16ClF3N4O4S
